US07718693B2
D-glutamic acid (1.47 g, 10 mmol) was dissolved in 2N aqueous sodium hydroxide (10 ml, 20 mmol) and stirred for 15 minutes. The mixture was then treated with a solution of benzaldehyde (1.1 ml, 10 mmol) in ethanol (3 ml) and stirred at room temperature for 30 minutes. The mixture was cooled to 0° C. and treated with sodium borohydride (0.030 g). The mixture was allowed to warm to room temperature with stirring over 4 hrs and then washed with diethyl ether (three times) before acidifying with concentrated hydrochloric acid to pH2. The resulting precipitate was filtered off and washed with diethyl ether before slurrying in ethanol and azeotroping three times with more ethanol. Finally the remaining material was slurried in ethanol (50 ml) and heated at reflux for 16 hrs. The mixture was then cooled to room temperature and evaporated in vacuo. Drying afforded pure 5-oxo-1-(phenylmethyl)proline.

reactant | D-glutamic acid | 10 mmol, 1.47 g | N[C@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | sodium hydroxide | 20 mmol, 2N, 10 ml | [OH-].[Na+]
reactant | benzaldehyde | 10 mmol, 1.1 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 0.030 g | [BH4-].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 5-oxo-1-(phenylmethyl)proline | O=C1CC[C@H](N1CC1=CC=CC=C1)C(=O)O | C12H13NO3
